Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Taxol / lisinopril
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F h/o TAH-BSO for ovarian CA s/p TAH-BSO with small bowel 
resection and intraperitoneal chemotherapy ___ and h/o SBO now 
p/w diffuse abdominal pain.  Patient reports she was in her 
usual state of health until 8 AM today when she started having 
waves of severe diffuse abdominal pain associated with 2 bouts 
of non-bilious, non-bloody emesis.  She reports having a small 
BM in the morning but has not had any bowel function since then. 
 She does not recall when she last passed flatus.  She reports 
that the pain is identical to her prior bowel obstructions.  Her 
first SBO was in ___ and was managed non-operatively with an 
NGT at ___.  She has since had about 5 other similar episodes 
which have self-resolved at home without needing hospital 
admission.  

 
Past Medical History:
PAST MEDICAL HISTORY:  Negative.

PAST SURGICAL HISTORY:  Tonsillectomy in ___.

ALLERGIES TO MEDICATIONS:  None.

CURRENT MEDICATIONS:  None.

OB HISTORY:  Vaginal delivery x3.

GYN HISTORY:  Last Pap smear was yesterday, and the results are
pending.  Last mammogram in ___ and normal.

 
Social History:
___
Family History:
Significant for mother with melanoma, father with pancreatic 
cancer, a paternal aunt with a question of both breast and 
ovarian cancer, and a maternal aunt with cervical cancer.

 
Physical Exam:
On Admission:

VS: 98.7 77 151/97 18 100%  
Gen: NAD, AOx3, anicteric
HEENT: neck supple, trachea midline, no cervical or
supraclavicular LAD. moist mucous membranes
___: reg
Pulm: no resp distress
Abd: Soft, ___ TTP throughout (non-focal). no
rebound, no guarding. 
___: no LLE

 
Pertinent Results:
___:09AM BLOOD WBC-5.4# RBC-4.20 Hgb-12.4 Hct-37.2 
MCV-89 MCH-29.5 MCHC-33.3 RDW-13.9 Plt ___
___ 06:09AM BLOOD Glucose-91 UreaN-13 Creat-1.0 Na-141 
K-4.1 Cl-105 HCO3-26 AnGap-14
___ 01:27PM BLOOD ALT-14 AST-21 AlkPhos-56 TotBili-0.7
___ 06:09AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.8

___ ABD CT:
IMPRESSION:  
1.  Small bowel obstruction, likely with transition point in the 
deep pelvis, just distal to a small bowel anastomosis. 
2.  Thickened segment of small bowel in the mid abdomen, 
proximal to the area of small bowel dilation, reflecting a 
nonspecific enteritis. 
3.  Small amount of ascites. No free air. 

 
Brief Hospital Course:
The patient with history of multiple episodes of small bowel 
obstruction was admitted to the Surgical Oncology service for 
observation. Abdominal CT scan on admission revealed small bowel 
obstruction, likely with transition point in the deep pelvis, 
just distal to a small bowel anastomosis. Patient was made NPO 
with IV fluids, NGT was not required as patient denied nausea. 
After been transferred to the floor, patient had returned bowel 
function and started to pass gas. On HD 1, patient's diet was 
advanced to regular and was well tolerated. Patient remained 
afebrile with WBC within normal limits. Patient was discharged 
home in stable condition.  

 
Medications on Admission:
Valsartan 40 mg PO daily
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain/headache/fever 
2. Valsartan 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for observation with symptoms of small bowel 
obstruction. You are now safe to be discharge home.
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns, or your symptoms returned.
.
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___